US07452893B2
Step 2: cis-3-tert-Butoxycarbonylmethyl-cyclobutanecarboxylic acid
A mixture of 2 g of 3-tert-butoxycarbonylmethylene-cyclobutanecarboxylic acid, 150 mL of ethanol, 0.5 g of 5% platinum on carbon, and 200 mL of ethanol was stirred under 1 atm of hydrogen for 48 h overnight, filtered, diluted with 20 mL of toluene and concentrated under reduced pressure. Drying under vacuum overnight gave 2 g of product, which was predominantly as a colorless oil: 1H NMR (400 MHz, CDCl3) 10.2 (br s, 1H), 3.0 (m, 1H), 2.3 (m, 1H), 2.38 (m, 4H), 2.0 (dd, 2H), 1.4 (s, 9).

reactant | 3-tert-butoxycarbonylmethylene-cyclobutanecarboxylic acid | 2 g | C(C)(C)(C)OC(=O)C=C1CC(C1)C(=O)O | C11H16O4
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 0.5 g | [Pt] | Pt
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | cis-3-tert-Butoxycarbonylmethyl-cyclobutanecarboxylic acid | 2 g | C(C)(C)(C)OC(=O)C[C@H]1C[C@H](C1)C(=O)O | C11H18O4
